US07855212B2
To a suspension of LiH (404 mg, 50.79 mmol) in anhydrous THF (10 mL), was added dropwise a solution of 2-pyridylacetonitrile (3 g, 25.39 mmol) in anhydrous THF (10 mL). The reaction mixture was stirred at zero degree for 1 hour. A solution of 2,4-dichloro-5-methyl-pyrimidine (4.55 g, 27.93 mmol), dissolved in anhydrous THF (5 ml), was added dropwise at zero degree. The reaction mixture was stirred and heated to reflux for 14 hours. The reaction mixture was allowed to warm to r.t. and water was added (20 mL). THF was evaporated under vacuum and a solution of 1N HCl (20 mL) was added. The precipitate was filtered and washed with water (10 mL) and cyclohexanes (10 mL) to give a yellow solid which was dried under vacuum at 40 degrees. The yellow crystalline product 4-pyrimidineacetonitrile, 2-chloro-5-methyl-alpha-2(1H)-pyridinylidene was isolated. (5.5 g, 90%).

reactant | LiH | 50.79 mmol, 404 mg | [H-].[Li+]
reactant | 2-pyridylacetonitrile | 25.39 mmol, 3 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | 2,4-dichloro-5-methyl-pyrimidine | 27.93 mmol, 4.55 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-pyrimidineacetonitrile | N1=CN=C(C=C1)CC#N | C6H5N3
